US04493832
To a solution of (rac)-1-O-dodecyl-3-O-trityl-glycerol (16.0 g) and dry pyridine (7.54 g) in dry methylenechloride (200 ml) was added, dropwise over 20 minutes, a solution of methyl chloroformate (5.70 g) in dry methylene chloride (40 ml) at 5° C. After 3 hours, the solution was allowed to stand for 17 hours at ambient temperature, and then washed with aqueous hydrochloric acid and water, dried, and evaporated. The residue was purified by column chromatography on silica gel (240 g, elution by chloroform) to yield 17.33 g of (rac)-1-O-dodecyl-2-O-methoxycarbonyl-3-O-trityl-glycerol as a colorless oil.

reactant | (rac)-1-O-dodecyl-3-O-trityl-glycerol | 16.0 g | C(CCCCCCCCCCC)OCC(O)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H46O3
reactant | pyridine | 7.54 g | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 5.70 g | ClC(=O)OC | C2H3ClO2
solvent | methylenechloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | (rac)-1-O-dodecyl-2-O-methoxycarbonyl-3-O-trityl-glycerol | 17.33 g | C(CCCCCCCCCCC)OCC(OC(=O)OC)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H48O5
